US04053606
To a mixture of 0.1 mole 3-hydroxy-4-hydroxymethyl-2-methyl-5-vinylpyridine in 500 ml. of acetone and 25 gm. potassium carbonate is added 0.11 mole of benzyl chloride. The reaction mixture is stirred overnight, filtered, and the acetone removed in vacuo to yield 2-methyl-3-benzyloxy-4-hydroxymethyl-5-vinylpyridine.

reactant | 3-hydroxy-4-hydroxymethyl-2-methyl-5-vinylpyridine | 0.1 mole | OC=1C(=NC=C(C1CO)C=C)C | C9H11NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 0.11 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | CC(=O)C | C3H6O
product | 2-methyl-3-benzyloxy-4-hydroxymethyl-5-vinylpyridine | CC1=NC=C(C(=C1OCC1=CC=CC=C1)CO)C=C | C16H17NO2
